US05216015
Step 2: Preparation of E-3-tributylstannylacrolein
A solution of oxalyl chloride (17.3 ml) in anhydrous methylene chloride (62 ml) is cooled to -78° C. and dimethylsulfoxide (3.7 ml) is added dropwise. The mixture is stirred for 15 minutes, E-3-tributylstannyl-2-propen-1-ol (10.7 g) in methylene chloride (26 ml) added dropwise, stirred for about 10 minutes, and triethylamine (19.4 ml) added. Stirring is stopped, the mixture allowed to warm to room temperature, then stirred for about 5 minutes, diluted with ether, and washed with water. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography to give the desired product.

reactant | oxalyl chloride | 17.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 3.7 ml | CS(=O)C | C2H6OS
reactant | E-3-tributylstannyl-2-propen-1-ol | 10.7 g | C(CCC)[Sn](/C=C/CO)(CCCC)CCCC
reactant | triethylamine | 19.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 62 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | E-3-tributylstannylacrolein | C(CCC)[Sn](/C=C/C=O)(CCCC)CCCC | InChI=1S/3C4H9.C3H3O.Sn/c3*1-3-4-2;1-2-3-4;/h3*1,3-4H2,2H3;1-3H;
